US04788205
N-Phenyl-3-ketobutanamide (0.35 g, 2.0 mmole) was dissolved in ethanolic ammonia (15 ml, 0.105M) and stirred overnight at room temperature. The solution was evaporated to yield N-phenyl-3-aminocrotonamide which was used directly. The crude residue was taken up in ethanol (30 ml) and 2-chlorobenzaldehyde (0.28 g, 2 mmole) and methyl 4-[2-(2,4,5-trimethylimidazol-1-yl)ethoxy]-3-ketobutanoate (0.53 g, 2 mmole) were added. The mixture was heated at reflux for 8 hours then cooled and the solution evaporated to dryness under reduced pressure. The residue was chromatographed on silica eluting with ethyl acetate containing an increasing proportion of up to 10% diethylamine. The fractions containing the product were combined and evaporated to yield the title compound (0.56 g, 51%). m.p. 135°-140° C. Found: C, 65.06; H, 6.14; N, 9.86. C30H33ClN4O4.1/2H2O requires C, 65.09; H, 6.10; N, 10.12%.

reactant | N-Phenyl-3-ketobutanamide | 2.0 mmole, 0.35 g | C1(=CC=CC=C1)NC(CC(C)=O)=O | C10H11NO2
reactant | ammonia | 0.105M, 15 ml | N | H3N
product | N-phenyl-3-aminocrotonamide | C1(=CC=CC=C1)NC(\C=C(\C)/N)=O | C10H12N2O
